* source LASERGUN2
X_Qref1         N04876 N04876 N04948 awb2n3906 PARAMS:                         
+                    
R_R2         N04876 0  51 TC=0,0 
X_LaserSight1         0 0 N04892 SLD1121VS
X_Q2         N04892 N04876 N04948 awb2n3906 PARAMS:                            
+                 
V_V2         N04948 0 6Vdc
